US03978130
1-Cyclopropyl-3-(N-methylacetamido)-1-(m-trifluoromethylphenyl)-1-propanol.
An ether solution of a Grignard reagent prepared from 50.0 g. (0.35 mole) of 3-bromobenzotrifluoride, 400 ml. of ether and 8.6 g. (0.354 mole) of magnesium was treated at -20°C. to -30°C. with 12.5 g. (0.059 mole) of crude 1-cyclopropyl-3-(N-methyl-acetamido)-1-propanone (calculated to contain 80% of the propanone by the nuclear magnetic resonance spectrum) in 100 ml. of ether. The reaction mixture was warmed to room temperature and treated with 7.4 g. (0.14 mole) ammonium chloride followed by 20 ml. of water. The ether layer was separated, concentrated to a dark oil and distilled under reduced pressure. The yield was 6.2 g.; b.p. 110°-114°C./0.1 mm.

reactant | 3-bromobenzotrifluoride | 0.35 mole | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 0.354 mole | [Mg] | Mg
reactant | 1-cyclopropyl-3-(N-methyl-acetamido)-1-propanone | 0.059 mole | C1(CC1)C(CCN(C(C)=O)C)=O | C9H15NO2
reactant | ammonium chloride | 0.14 mole | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | propanone | CC(C)=O | C3H6O
product | 1-Cyclopropyl-3-(N-methylacetamido)-1-(m-trifluoromethylphenyl)-1-propanol | C1(CC1)C(CCN(C(C)=O)C)(O)C1=CC(=CC=C1)C(F)(F)F | C16H20F3NO2
